US08309718B2
Step 2: 1-(cyclopropylsulfonyl)-4-(4-(2-(4-(1H-pyrazol-1-yl)phenyl)aminopyrimidin-4-yl)-1H-pyrazol-1-yl)piperidin-4-ylacetonitrile
A mixture of (4-(4-(2-chloropyrimidin-4-yl)-1H-pyrazol-1-yl)-1-(cyclopropylsulfonyl)piperidin-4-yl)acetonitrile (30 mg, 0.08 mmol), 4-(1H-pyrazol-1-yl)aniline (18.9 mg, 0.119 mol), and p-toluenesulfonic acid (12 mg, 0.067 mmol) in dry 1,4-dioxane (0.6 mL) was refluxed overnight. The mixture was diluted with acetonitrile and water, purified on RP-HPLC at pH 10 to give the desired product as free base (30 mg, 72%). LCMS (M+H) 530.1.

reactant | (4-(4-(2-chloropyrimidin-4-yl)-1H-pyrazol-1-yl)-1-(cyclopropylsulfonyl)piperidin-4-yl)acetonitrile | 0.08 mmol, 30 mg | ClC1=NC=CC(=N1)C=1C=NN(C1)C1(CCN(CC1)S(=O)(=O)C1CC1)CC#N | C17H19ClN6O2S
reactant | 4-(1H-pyrazol-1-yl)aniline | 0.119 mol, 18.9 mg | N1(N=CC=C1)C1=CC=C(N)C=C1 | C9H9N3
reactant | p-toluenesulfonic acid | 0.067 mmol, 12 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | 1,4-dioxane | 0.6 mL | O1CCOCC1 | C4H8O2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1-(cyclopropylsulfonyl)-4-(4-(2-(4-(1H-pyrazol-1-yl)phenyl)aminopyrimidin-4-yl)-1H-pyrazol-1-yl)piperidin-4-ylacetonitrile | C1(CC1)S(=O)(=O)N1CCC(CC1)(N1N=CC(=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)N1N=CC=C1)CC#N | C26H27N9O2S
